US05135932
6-[4-(3-Aminopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone
30.0 g (70.7 mmol) of 6-[4-(3-phthalimidopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone are stirred vigorously for two hours at ambient temperature in a mixture of 200 ml of toluene and 300 ml of 40% aqueous methylamine solution. Then the solid matter precipitated is suction filtered, washed successively with 100 ml of water, 50 ml of acetone and 50 ml of diethylether and then dried over phosphorus pentoxide in a vacuum drying cupboard.

reactant | 6-[4-(3-phthalimidopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | 70.7 mmol, 30.0 g | C1(C=2C(C(N1CCCS(=O)(=O)C1=CC=C(C=C1)C=1CCC(NN1)=O)=O)=CC=CC2)=O | C21H19N3O5S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylamine | 300 ml | CN | CH5N
product | 6-[4-(3-Aminopropylsulphonyl)phenyl]-4,5-dihydro-3(2H)-pyridazinone | NCCCS(=O)(=O)C1=CC=C(C=C1)C=1CCC(NN1)=O | C13H17N3O3S
